US05663413
B) 4-nitrobenzenesulfonic acid 3,6,9,12,15,18,21-heptaoxadocos-1-yl ester
6.7 g (60 mmol) of TEA are dropwise added, in 10 min, to a solution of 13.3 g (60 mmol) of 4-nitrobenzenesulfonyl chloride (marketed product) and of 20.4 g (60 mmol) of 3,6,9,12,15,18,21-heptaoxadocosan-1-ol (according to Liebigs Ann. Chem. 1980, 858-862) in 60 mL of AcOEt. After 2 h at the temperature of 20° C., the precipitated TEA hydrochloride is filtered off, washing with 10 mL of AcOEt for three times. The filtrates are collected, washed with 30 mL of H2O, 20 mL of 2N HCl and then with H2O to reach a neutral pH. The organic phase is evaporated to dryness, to give a thick oil which is directly used in the successive step without a further purification. 25 g (47 mmol) of the desired product are obtained.

reactant | 4-nitrobenzenesulfonyl chloride | 60 mmol, 13.3 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | 3,6,9,12,15,18,21-heptaoxadocosan-1-ol | 60 mmol, 20.4 g | C(COCCOCCOCCOCCOCCOCCOC)O | C15H32O8
solvent | AcOEt | 60 mL | CCOC(=O)C | C4H8O2
product | 4-nitrobenzenesulfonic acid 3,6,9,12,15,18,21-heptaoxadocos-1-yl ester | 47 mmol, 25 g, Yield: 79% | C(COCCOCCOCCOCCOCCOCCOC)OS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C21H35NO12S
